US08242153B2
d) (4S)-4-(3-Phenyl-butyl)-4,5-dihydro-oxazol-2-ylamine
To a stirred solution of (2S)-2-amino-5-phenyl-hexan-1-ol (160 mg) in methanol (11 ml) at room temperature was added sodium acetate (136 mg). The mixture was cooled to 0° C. and a solution of cyanogen bromide (96 mg) in methanol (2 ml) was added dropwise. The mixture was stirred at 0° C. for 30 min and then at room temperature overnight before being concentrated in vacuo. The residue was resuspended in tetrahydrofuran/ethyl acetate (1/2) and washed sequentially with saturated aqueous sodium bicarbonate solution and saturated brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (SiO2, heptane/dichloromethane/methanol gradient; eluant containing 1% aq. ammonia) to yield a colourlessoil, (128 mg, 71%); MS (ISP): 219.2 ([M+H]).

reactant | (2S)-2-amino-5-phenyl-hexan-1-ol | 160 mg | N[C@H](CO)CCC(C)C1=CC=CC=C1 | C12H19NO
reactant | sodium acetate | 136 mg | C(C)(=O)[O-].[Na+]
reactant | cyanogen bromide | 96 mg | N#CBr | CBrN
solvent | methanol | 11 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | (4S)-4-(3-Phenyl-butyl)-4,5-dihydro-oxazol-2-ylamine | C1(=CC=CC=C1)C(CC[C@@H]1N=C(OC1)N)C | C13H18N2O
